US07645753B2
3-Amino-4-chloro-5-ethoxy-benzoic acid methyl ester
To a solution of 4-chloro-3-ethoxy-5-nitro-benzoic acid methyl ester (1.0 g, 3.85 mmol, 1.0 equiv) in methanol (20 mL) was added dropwise under stirring at 0° C. a solution of tin chloride (2.92 g, 15.41 mmol, 4.0 equiv) in 37% HCl (7.5 mL). After the addition was completed the cooling bath was removed and the reaction mixture stirred at rt for 18 h. The solution was concentrated by evaporation under reduced pressure and the solution extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4, the solvent removed by evaporation under reduced pressure and the crude material purified by recrystallization from dichloromethane yielding 0.88 g (100%) of the title compound. 1H NMR (300 MHz, DMSO): δ 1.28 (t, J=7.0 Hz, 3H), 3.75 (s, 3H), 4.01 (q, J=7.0 Hz, 2H), 5.57 (br s, 2H), 6.71 (d, J=1.7 Hz, 1H), 7.03 (d, J=1.7 Hz, 1H). 13C NMR (75 MHz, DMSO): δ 14.51, 52.09, 64.31, 100.87, 108.93, 110.33, 128.52, 145.93, 154.51, 166.10. MS (ISP): 230.0 [M+H]+.

reactant | 4-chloro-3-ethoxy-5-nitro-benzoic acid methyl ester | 3.85 mmol, 1.0 g, 1.0 equiv | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])Cl)OCC)=O | C10H10ClNO5
reactant | tin chloride | 15.41 mmol, 2.92 g, 4.0 equiv | [Sn](Cl)(Cl)(Cl)Cl
solvent | methanol | 20 mL | CO | CH4O
solvent | HCl | 7.5 mL | Cl | ClH
product | 3-Amino-4-chloro-5-ethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OCC)Cl)N)=O | C10H12ClNO3
